// Generated for: spectre
// Generated on: Feb 11 13:34:15 2016
// Design library name: cse563
// Design cell name: cmos_inverter_test
// Design view name: schematic
simulator lang=spectre
global 0 vdd!
parameters nW=900n nL=900n pW=900n pL=900n
include "/project/linuxlab/cadence/CDK/ncsu/models/spectre/nom/ami06N.m"
include "/project/linuxlab/cadence/CDK/ncsu/models/spectre/nom/ami06P.m"

// Library name: cse563
// Cell name: cmos_inverter
// View name: schematic
subckt cmos_inverter Vin Vout
    N0 (Vout Vin 0 0) ami06N w=nW l=nL as=nW * 2.5 * (600n) ad=nW * 2.5 * (600n) \
         ps=(2 * nW) + (5 * (600n)) pd=(2 * nW) + (5 * (600n)) m=1 \
        region=sat
    P0 (Vout Vin vdd! vdd!) ami06P w=pW l=pL as=pW * 2.5 * (600n) ad=pW * 2.5 * (600n) \
         ps=(2 * pW) + (5 * (600n)) pd=(2 * pW) + (5 * (600n)) m=1 \
        region=sat
ends cmos_inverter
// End of subcircuit definition.

// Library name: cse563
// Cell name: cmos_inverter_test
// View name: schematic
I0 (net4 net3) cmos_inverter
V1 (net4 0) vsource type=dc
V0 (vdd! 0) vsource type=dc dc=5
C0 (net3 0) capacitor c=1p m=1
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
dc dc dev=V1 param=dc start=0 stop=5 oppoint=rawfile maxiters=150 \
    maxsteps=10000 annotate=status
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
