// Generated for: spectre
// Generated on: Mar  8 15:12:29 2016
// Design library name: 563_final
// Design cell name: cmos_nand_test
// Design view name: schematic
simulator lang=spectre
global 0 vdd!
parameters Vin2=0 Vin1=0
include "/project/linuxlab/cadence/CDK/ncsu/models/spectre/nom/ami06N.m"
include "/project/linuxlab/cadence/CDK/ncsu/models/spectre/nom/ami06P.m"

// Library name: 563_final
// Cell name: cmos_nand
// View name: schematic
subckt cmos_nand Vin1 Vin2 Vout
    N3 (Vout Vin2 0 0) ami06N w=1.2u l=600n as=1.8e-12 ad=1.8e-12 ps=5.4u \
        pd=5.4u m=1 region=sat
    N2 (Vout Vin1 0 0) ami06N w=1.2u l=600n as=1.8e-12 ad=1.8e-12 ps=5.4u \
        pd=5.4u m=1 region=sat
    P3 (Vout Vin2 net14 vdd!) ami06P w=14.4u l=600n as=2.16e-11 \
        ad=2.16e-11 ps=31.8u pd=31.8u m=1 region=sat
    P2q (net14 Vin1 vdd! vdd!) ami06P w=14.4u l=600n as=2.16e-11 \
        ad=2.16e-11 ps=31.8u pd=31.8u m=1 region=sat
ends cmos_nand
// End of subcircuit definition.

// Library name: 563_final
// Cell name: cmos_nand_test
// View name: schematic
I6 (net1 net3 net2) cmos_nand
C0 (net2 0) capacitor c=1f m=1
V2 (net3 0) vsource type=dc dc=Vin2
V0 (vdd! 0) vsource type=dc dc=5
V1 (net1 0) vsource type=dc dc=Vin1
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
dc dc dev=V1 param=dc start=0 stop=5 oppoint=rawfile maxiters=150 \
    maxsteps=10000 annotate=status
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
